US07838675B2
N-[2-[(2,3-Difluorobenzyl)thio]-6-(methylthio)pyrimidin-4-yl]methanesulfonamide
A mixture of methane sulfonamide (0.22 g), tris(dibenzylideneacetone)-dipalladium (0) (33 mg), 2-dicyclohexylphosphino-2′,4′,6′-tri-isopropyl-1,1′-biphenyl (XPHOS) (17 mg), cesium carbonate (0.58 g) and 4-chloro-2-[(2,3-difluorobenzyl)thio]-6-(methylthio)pyrimidine (the product of step i) (0.38 g) in dioxane (10 mL) was heated at 100° C. for 18 h. The mixture was cooled and saturated ammonium chloride was added and the resulting mixture extracted with EtOAc. The combined organic extracts were washed with saturated aqueous sodium chloride, dried (MgSO4), filtered and evaporated. The residue was purified by reverse phase HPLC eluting with acetonitrile/aq. 0.1% TFA mixtures to give the title compound as a white solid. Yield: 30 mg.

reactant | methane sulfonamide | 0.22 g | CS(=O)(=O)N | CH5NO2S
reactant | 2-dicyclohexylphosphino-2′,4′,6′-tri-isopropyl-1,1′-biphenyl | 17 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | cesium carbonate | 0.58 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-chloro-2-[(2,3-difluorobenzyl)thio]-6-(methylthio)pyrimidine | ClC1=NC(=NC(=C1)SC)SCC1=C(C(=CC=C1)F)F | C12H9ClF2N2S2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)-dipalladium (0) | 33 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-[2-[(2,3-Difluorobenzyl)thio]-6-(methylthio)pyrimidin-4-yl]methanesulfonamide | FC1=C(CSC2=NC(=CC(=N2)NS(=O)(=O)C)SC)C=CC=C1F | C13H13F2N3O2S3
